US04182776
p-[(2-Phenoxypropyl)amino]benzoic acid
A mixture of 33 g of ethyl p-aminobenzoate, 0.10 mole of 2-phenoxy-1-propanol O-methanesulfonate and 80 ml of hexamethylphosphoramide is heated at 125° C. for 18 hours. The mixture is chilled, poured into water and extracted with ether. The ether extract is washed with water, dried over magnesium sulfate and concentrated under vacuum to an oil. The oil is combined with 250 ml of ethanol-water (9:1) and 20 g of potassium hydroxide and the mixture refluxed for 3.5 hours. The mixture is acidified with concentrated hydrochloric acid, diluted with water and extracted with chloroform. The chloroform extracts are washed with water, dried (magnesium sulfate) and concentrated under vacuum to give an oil. Ethanol is added and the mixture chilled and filtered to give the product, mp 140°-144° C. Recrystallization gives the product as crystals, mp 145°-147° C.

reactant | ethyl p-aminobenzoate | 33 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 2-phenoxy-1-propanol O-methanesulfonate | 0.10 mole | CS(=O)(=O)OCC(C)OC1=CC=CC=C1 | C10H14O4S
reactant | hexamethylphosphoramide | 80 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | water | O | H2O
solvent | Ethanol | C(C)O | C2H6O
product | p-[(2-Phenoxypropyl)amino]benzoic acid | O(C1=CC=CC=C1)C(CNC1=CC=C(C(=O)O)C=C1)C | C16H17NO3
